US07465731B2
To a solution of ethyl (2E)-3-{6-[[(3R)-1-(4-benzoylbenzyl)-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylate (111 mg) in dioxane (2 mL) was added 1N sodium hydroxide (0.6 mL). After stirring at 60° C. for 2 hours, the reaction mixture was added H2O (10 mL) and acidified with 1N hydrochloric acid (to pH 1). A resulting mixture was extracted with CHCl3, and the organic layer was dried over MgSO4, filtered, and evaporated in vacuo to give (2E)-3-{6-[[(3R)-1-(4-benzoylbenzyl)-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylic acid dihydrochloride (97 mg).

reactant | ethyl (2E)-3-{6-[[(3R)-1-(4-benzoylbenzyl)-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylate | 111 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(CN2C[C@@H](CC2)N(C2=CC=C(C=N2)/C=C/C(=O)OCC)C(=O)OC(C)(C)C)C=C1 | C33H37N3O5
reactant | sodium hydroxide | 1N, 0.6 mL | [OH-].[Na+]
reactant | H2O | 10 mL | O | H2O
reactant | hydrochloric acid | 1N, pH 1 | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (2E)-3-{6-[[(3R)-1-(4-benzoylbenzyl)-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylic acid dihydrochloride | 97 mg | Cl.Cl.C(C1=CC=CC=C1)(=O)C1=CC=C(CN2C[C@@H](CC2)N(C2=CC=C(C=N2)/C=C/C(=O)O)C(=O)OC(C)(C)C)C=C1 | InChI=1S/C31H33N3O5.2ClH/c1-31(2,3)39-30(38)34(27-15-11-22(19-32-27)12-16-28(35)36)26-17-18-33(21-26)20-23-9-13-25(14-10-23)29(37)24-7-5-4-6-8-24;;/h4-16,19,26H,17-18,20-21H2,1-3H3,(H,35,36);2*1H/b16-12+;;/t26-;;/m1../s1
